US07560596B2
Synthesis of 2′-amino-biphenyl-3-carboxylic acid (FIG. 3, Entry 3; C. L. Nesloney, J. W. Kelly J. Org. Chem. 1996, 61, 3127.)
The general procedure described in Example 3 was used with 3-chlorobenzoic acid (157 mg, 1.00 mmol), 2-aminophenylboronic acid (205 mg, 1.50 mmol), Pd(OAc)2 (2.2 mg, 0.010 mmol, 1 mol %), sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate (10.0 mg, 0.020 mmol, 2 mol %), K2CO3 (414 mg, 3.00 mmol), water (2.0 mL), 12 h, 100° C. The product was isolated as a white solid (203 mg, 95%). Mp=170° C. (lit.=173-175° C.) 1H NMR (400 MHz, d4-MeOH) δ: 8.07 (m, 1H), 7.99 (d, 1H, J=7.6 Hz), 7.65 (d, 1H, J=8.0 Hz), 7.53 (t, 1H, J=7.6 Hz), 7.13 (td, 1H, J=1.6 Hz, J=7.6 Hz), 6.84 (d, 1H, J=8.0 Hz), 6.77 (t, 1H, J=7.6 Hz). 13C NMR (125 MHz, d4-MeOH) δ: 169.9, 145.1, 141.7, 134.8, 132.6, 131.4, 131.4, 130.1, 129.9, 129.5, 128.3, 120.0, 117.6.

reactant | 3-chlorobenzoic acid | 1.00 mmol, 157 mg | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | 2-aminophenylboronic acid | 1.50 mmol, 205 mg | NC1=C(C=CC=C1)B(O)O | C6H8BNO2
reactant | K2CO3 | 3.00 mmol, 414 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(OAc)2 | 0.010 mmol, 2.2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate | 0.020 mmol, 10.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C(=CC=C1OC)S(=O)(=O)[O-])OC)C1CCCCC1.[Na+]
solvent | water | 2.0 mL | O | H2O
product | 2′-amino-biphenyl-3-carboxylic acid | 203 mg, 95% | NC1=C(C=CC=C1)C1=CC(=CC=C1)C(=O)O | C13H11NO2
